US05028629
Preparation of 2-(methylthio)-3-n-hexyl-N-hydroxy-N-methylcinnamamide.
To 100 ml of DMF with 10 ml of water is added (2-methylthio-3-n-hexyl-6-trimethylsilylphenyl)-4,4-dimethyloxazoline and 20 g of tetrabutylammonium fluoride and refluxed overnight. The reaction mixture is cooled and then poured into water and extracted with diethyl ether. The extracts are washed with water and then brine, dried over MgSO4, and concentrated to afford the subtitle compound.

reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | (2-methylthio-3-n-hexyl-6-trimethylsilylphenyl)-4,4-dimethyloxazoline | CSC1=C(C(=CC=C1CCCCCC)[Si](C)(C)C)C=1OCC(N1)(C)C | C21H35NOSSi
reactant | tetrabutylammonium fluoride | 20 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | water | 10 ml | O | H2O
product | 2-(methylthio)-3-n-hexyl-N-hydroxy-N-methylcinnamamide | CSC1=C(C=CC(=O)N(C)O)C=CC=C1CCCCCC | C17H25NO2S
